US06084095
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (300 mg, 1.56 mmol), 2-aminobenzotrifluoride hydrochloride (1.00 g, 5.06 mmol) and 2-aminobenzotrifluoride (2.00 g, 12.4 mmol) is stirred at 160° C. for 10 min. The resulting product is neutralized with excess NaHCO3, dissolved in MeOH/CHCl3, dried onto silica gel and chromatographed over silica gel (6-7% MeOH/CH2Cl2) to give 7-amino-4-(2-trifluoromethylanilino)pyrido[4,3-d]pyrimidine (194 mg, 41%) as a cream solid, mp (MeOH/CHCl3 /light petroleum) 126-130° C. (dec.). 1H NMR (DMSO) δ 10.60 (1H, brs), 9.17 (1H, brs), 8.13 (1H, brs), 7.76, 7.69 (1H, 1H, m, m), 7.45 (2H, m), 6.66 (2H, brs), 6.36 (1H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.56 mmol, 300 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 2-aminobenzotrifluoride hydrochloride | 5.06 mmol, 1.00 g | Cl.NC1=C(C=CC=C1)C(F)(F)F
reactant | 2-aminobenzotrifluoride | 12.4 mmol, 2.00 g | NC1=C(C=CC=C1)C(F)(F)F | C7H6F3N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 7-amino-4-(2-trifluoromethylanilino)pyrido[4,3-d]pyrimidine | 194 mg, 41% | NC1=CC=2N=CN=C(C2C=N1)NC1=C(C=CC=C1)C(F)(F)F | C14H10F3N5
